* c:\users\lenovo\esim-workspace\ravi_adc\ravi_adc.cir

.include rropamp31.sub
.include avsddac_3v3_sky130_v2.sub
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.lib "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
* u5  net-_u1-pad3_ net-_u10-pad2_ net-_u5-pad3_ net-_u5-pad4_ net-_u5-pad5_ net-_u5-pad6_ net-_u5-pad7_ net-_u5-pad8_ net-_u5-pad9_ net-_u5-pad10_ ravi_counter
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ ravi_an
x2 net-_x2-pad1_ net-_x2-pad1_ gnd gnd gnd out0 out1 out2 out3 out4 out5 out6 out7 dac_out gnd avsddac_3v3_sky130_v2
* u9  net-_u5-pad10_ net-_u5-pad9_ net-_u5-pad8_ net-_u5-pad7_ net-_u5-pad6_ net-_u5-pad5_ net-_u5-pad4_ net-_u5-pad3_ out0 out1 out2 out3 out4 out5 out6 out7 dac_bridge_8
v5 net-_x2-pad1_ gnd  dc 3.3
* u4  comp_out1 net-_u1-pad1_ adc_bridge_1
v1 net-_x1-pad4_ gnd  dc 0.2
v2 net-_x1-pad1_ gnd  dc 3.3
v3  clk gnd pulse(0 1.8 0 0 0 0.5m 1m)
* u6  clk net-_u1-pad2_ adc_bridge_1
* u7  dac_out plot_v1
* s c m o d e
* u3  clk plot_v1
* u2  comp_out1 plot_v1
x1 net-_x1-pad1_ gnd dac_out net-_x1-pad4_ comp_out1 rropamp31
v4  reset gnd pulse(0 1.8 0 0 0 0.5m 22m)
* u8  reset plot_v1
* u10  reset net-_u10-pad2_ adc_bridge_1
* u15  out0 plot_v1
* u14  out1 plot_v1
* u13  out2 plot_v1
* u12  out3 plot_v1
* u11  out4 plot_v1
* u16  out5 plot_v1
* u17  out6 plot_v1
* u18  out7 plot_v1
a1 [net-_u1-pad3_ ] [net-_u10-pad2_ ] [net-_u5-pad3_ net-_u5-pad4_ net-_u5-pad5_ net-_u5-pad6_ net-_u5-pad7_ net-_u5-pad8_ net-_u5-pad9_ net-_u5-pad10_ ] u5
a2 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] u1
a3 [net-_u5-pad10_ net-_u5-pad9_ net-_u5-pad8_ net-_u5-pad7_ net-_u5-pad6_ net-_u5-pad5_ net-_u5-pad4_ net-_u5-pad3_ ] [out0 out1 out2 out3 out4 out5 out6 out7 ] u9
a4 [comp_out1 ] [net-_u1-pad1_ ] u4
a5 [clk ] [net-_u1-pad2_ ] u6
a6 [reset ] [net-_u10-pad2_ ] u10
* Schematic Name:                             ravi_counter, NgSpice Name: ravi_counter
.model u5 ravi_counter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             ravi_an, NgSpice Name: ravi_an
.model u1 ravi_an(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u9 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=0 t_fall=0 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u6 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u10 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran .1e-03 22e-03 0e-03

* Control Statements 
.control
run
set color0 = white
set color1 = black
set color2 = red
set xbrushwidth = 2
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(dac_out)
plot v(clk)
plot v(comp_out1)
plot v(reset)
plot v(out0)/5 v(out1)/5+1.5 v(out2)/5+3 v(out3)/5+4.5 v(out4)/5+6 v(out5)/5+7.5 v(out6)/5+9 v(out7)/5+10.5
.endc
.end
